US07425568B2
2-[2-(2,5-Difluorophenyl)chroman-6-yloxy]-5-ethoxyphenylamine hydrochloride was prepared as described for 5-methoxy-2-(2-phenylchroman-6-yloxy)phenylamine hydrochloride in example 3(b) starting from 120 mg of 2-(2,5-difluorophenyl)-6-(4-ethoxy-2-nitrophenoxy)chroman. 1H NMR (400 MHz, CDCl3) δ: 7.26-7.22 (m, 2H), 7.01-6.74 (m, 7H), 5.22 (d, 1H, J 9.1 Hz), 3.90 (q, 2H, J 6.9 Hz), 2.90 (m, 1H), 2.68 (m, 1H), 2.19 (m, 1H), 1.90 (m, 1H), 1.34 (t, 3H, 6.9 Hz).

reactant | 5-methoxy-2-(2-phenylchroman-6-yloxy)phenylamine hydrochloride | Cl.COC=1C=CC(=C(C1)N)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1
reactant | 2-(2,5-difluorophenyl)-6-(4-ethoxy-2-nitrophenoxy)chroman | 120 mg | FC1=C(C=C(C=C1)F)C1OC2=CC=C(C=C2CC1)OC1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C23H19F2NO5
product | 2-[2-(2,5-Difluorophenyl)chroman-6-yloxy]-5-ethoxyphenylamine hydrochloride | Cl.FC1=C(C=C(C=C1)F)C1OC2=CC=C(C=C2CC1)OC1=C(C=C(C=C1)OCC)N | InChI=1S/C23H21F2NO3.ClH/c1-2-27-16-5-10-23(20(26)13-16)28-17-6-9-21-14(11-17)3-8-22(29-21)18-12-15(24)4-7-19(18)25;/h4-7,9-13,22H,2-3,8,26H2,1H3;1H
